US07342118B2
4-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino}-pentanoylamino]-imidazol-1-yl)-benzoic acid methyl ester
4-(4-Amino-imidazol-1-yl)-benzoic acid methyl ester was coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 19.0, 35.8, 43.1, 52.6, 53.3, 102.7, 103.0, 103.2, 106.1, 112.4, 112.6, 120.4, 129.2, 131.7, 132.1, 138.6, 139.0, 140.6, 161.9, 162.1, 164.4, 166.2, 169.6, 169.8; MS m/z 471.2 (M+1).

reactant | 4-(4-Amino-imidazol-1-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)N)=O | C11H11N3O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | 4-(4-{2-[2-(3,5-Difluoro-phenyl)-acetylamino}-pentanoylamino]-imidazol-1-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)=O | C24H24F2N4O4
